US05880135
4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(1-methoxycarbonylmethylindol-5-yl)-N-propylamino]thiazole.
0.093 g of 55% sodium hydride in oil and then 0.95 ml of methyl bromoacetate are added, at 0° C., to 0.8 g of 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(indol-5-yl)-N-propylamino]thiazole obtained above (EXAMPLE 7) in solution in 20 ml of dimethylformamide. After stirring for twelve hours at room temperature, the reaction mixture is poured into ice-water. The mixture is extracted with ethyl acetate and the organic phase is washed a number of times with water, dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on a column of silica gel eluted with a 9/1 (v/v) cyclohexane/ethyl acetate mixture. The expected product is isolated in the form of a white solid (Y=95%); M.p.=80° C. 1H NMR (DMSO): 0.84 (t, 3H), 1.51-1.62 (m, 2H), 1.94 (s, 3H), 3.68 (s, 3H), 3.79 (s, 3H), 3.75-3.82 (m, 2H), 5.17 (s, 2H), 6.50 (d, 1H), 6.91-7.58 (m, 7H).

reactant | sodium hydride | 0.093 g | [H-].[Na+]
reactant | methyl bromoacetate | 0.95 ml | BrCC(=O)OC | C3H5BrO2
reactant | 4-(2-chloro-4-methoxyphenyl)-5-methyl-2-[N-(indol-5-yl)-N-propylamino]thiazole | 0.8 g | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C=1C=C2C=CNC2=CC1 | C22H22ClN3OS
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(2-Chloro-4-methoxyphenyl)-5-methyl-2-[N-(1-methoxycarbonylmethylindol-5-yl)-N-propylamino]thiazole | ClC1=C(C=CC(=C1)OC)C=1N=C(SC1C)N(CCC)C=1C=C2C=CN(C2=CC1)CC(=O)OC | C25H26ClN3O3S
